US08252831B2
2-Chloro-5-[(2-methylpropanoylamino)methyl]-N-(1H-imidazol-2-yl)benzamide
To a suspension of 5-(aminomethyl)-2-chloro-N-(1H-imidazol-2-yl)benzamide dihydrochloride (50 mg, 0.154 mmol, 1.0 equiv) in THF (0.77 mL), add triethylamine (80 μL, 0.57 mmol, 3.7 equiv) and isobutyryl chloride (16.3 μL, 0.154 mmol, 1.0 equiv), and stir the reaction mixture for 1 h at room temperature. Concentrate the reaction mixture under reduced pressure, triturate the crude solids with a mixture of water (10 mL), hexanes (10 mL), and diethyl ether (10 mL), isolate the white solid by filtration and dry in a 40° C. vacuum oven to give the title compound (19 mg, 38% yield): 1H NMR (DMSO-d6, 400 MHz): δ 11.74 (br s, 2H), 8.30 (t, 1H, J=6.0 Hz), 7.42 (d, 1H, J=8.0 Hz), 7.36 (d, 1H, J=2.0 Hz), 7.26 (dd, 1H, J=8.0, 2.0 Hz), 6.73 (br s, 2H), 4.22 (d, 2H, J=5.9 Hz), 2.37 (septet, 1H, J=6.6 Hz), 0.97 (d, 6H, J=6.8 Hz). MS (m/z) (35Cl/37Cl) 321/323 (M+1).

reactant | 5-(aminomethyl)-2-chloro-N-(1H-imidazol-2-yl)benzamide dihydrochloride | 0.154 mmol, 50 mg, 1.0 equiv | Cl.Cl.NCC=1C=CC(=C(C(=O)NC=2NC=CN2)C1)Cl
reactant | triethylamine | 0.57 mmol, 80 μL, 3.7 equiv | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 0.154 mmol, 16.3 μL, 1.0 equiv | C(C(C)C)(=O)Cl | C4H7ClO
solvent | THF | 0.77 mL | C1CCOC1 | C4H8O
product | 2-Chloro-5-[(2-methylpropanoylamino)methyl]-N-(1H-imidazol-2-yl)benzamide | 19 mg, 38% yield | ClC1=C(C(=O)NC=2NC=CN2)C=C(C=C1)CNC(C(C)C)=O | C15H17ClN4O2
